US04407806
1 gm of phenol is added to 100 ml of toluene in a 250 Erlenmeyer flask equipped with a refluxing condensor. 0.26 gm sodium is added and the system is heated at reflux until the sodium has dissolved. The system is then allowed to come to room temperature. At this time, 2.50 gm of alpha-chloro-2,4-dichloro-alpha-(3-pyridyl)toluene in 30 ml of toluene is added over 1 hour. The system is then heated at reflux for 6 hours. The system is added to water and the product extracted in the organic phase. The toluene is removed by stripping to give the 3-pyridyl-2,4-dichlorophenylcarbinol phenylether.

reactant | phenol | 1 gm | C1(=CC=CC=C1)O | C6H6O
reactant | sodium | 0.26 gm | [Na] | Na
reactant | alpha-chloro-2,4-dichloro-alpha-(3-pyridyl)toluene | 2.50 gm | ClC(C1=C(C=C(C=C1)Cl)Cl)C=1C=NC=CC1 | C12H8Cl3N
reactant | water | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-pyridyl-2,4-dichlorophenylcarbinol phenylether | C1(=CC=CC=C1)OC(C1=C(C=C(C=C1)Cl)Cl)C=1C=NC=CC1 | C18H13Cl2NO
